US04367234
5-(2-Acetamidophenyl)oxazolidine-2,4-dione
5-(2-Aminophenyl)oxazolidine-2,4-dione hydrochloride (1 g., 4.37 mmoles) were taken into 15 ml. of glacial acetic acid. Sodium acetate (358 mg., 4.37 mmoles) were added and then, in a dropwise manner, acetic anhydride (449 mg., 0.41 ml., 4.37 mmoles). The reaction mixture was stirred at room temperature for 16 hours, poured into 50 ml. of water and extracted with three portions of ethyl acetate. The combined extracts were washed with two portions of water and then one of brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo solids (0.72 g.). Recrystallization from ethyl acetate gave purified 5-(2-acetamidophenyl)oazolidine-2,4-dione in two crops (0.26 g., m.p. 197°-198° C.; m/e 234].

reactant | 5-(2-Aminophenyl)oxazolidine-2,4-dione hydrochloride | 4.37 mmoles, 1 g | Cl.NC1=C(C=CC=C1)C1C(NC(O1)=O)=O
reactant | Sodium acetate | 4.37 mmoles, 358 mg | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 4.37 mmoles, 0.41 ml, 449 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(2-Acetamidophenyl)oxazolidine-2,4-dione | C(C)(=O)NC1=C(C=CC=C1)C1C(NC(O1)=O)=O | C11H10N2O4
